US04681960
28.0 g (0.1 mol) of 2-methyl-3-(trichlorogermyl)butanoic acid was treated with 100 ml of thionyl chloride and then distilled under reduced pressure to obtain 27.0 g (yield: 90.4%) of 2-methyl-3-(trichlorogermyl)-butanoyl chloride as a light yellow fraction having a boiling point of 99° to 100° C./6 mmHg.

reactant | 2-methyl-3-(trichlorogermyl)butanoic acid | 0.1 mol, 28.0 g | CC(C(=O)O)C(C)[Ge](Cl)(Cl)Cl | C5H9Cl3GeO2
reactant | thionyl chloride | 100 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-methyl-3-(trichlorogermyl)-butanoyl chloride | 27.0 g, yield: 90.4% | CC(C(=O)Cl)C(C)[Ge](Cl)(Cl)Cl | C5H8Cl4GeO
